US04186199
4-Chloro-1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine hydrochloride
A mixture of 9.40 g of 5-chloro-1-(2-formamidophenyl)indoline and 45 ml of phosphorus oxychloride is stirred under nitrogen. After a short time, a purple solution results. While heating this to reflux, a solid precipitates at 60° C. During the early stages of a 6 hour reflux period a solution is obtained again followed by heavy HCl (g) evolution and separation of a solid. The mixture is cooled and 45 ml of hexane is added to give a finely divided purple solid. This is filtered, washed repeatedly with hexane and dried. For purification, the solid is slurried in absolute ethanol, and tri-n-butylamine is added until a color change, indicating liberation of the free base of the product. The mixture is warmed to produce a solution, and the base allowed to crystallize at 0° C. The base is collected, washed with ethanol and dried. To reform the HCl salt, the base is dissolved in 15 ml of dimethylformamide without heating, and to the solution is added 35 ml of ethanol saturated with HCl gas. The product of 4-chloro-1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine hydrochloride crystallizes rapidly in the form of needles with m.p. 231°-233° C. dec.

reactant | 5-chloro-1-(2-formamidophenyl)indoline | 9.40 g | ClC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)NC=O | C15H13ClN2O
reactant | phosphorus oxychloride | 45 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine hydrochloride | Cl.ClC=1C=C2CCN3C2=C(C=NC2=C3C=CC=C2)C1 | InChI=1S/C15H11ClN2.ClH/c16-12-7-10-5-6-18-14-4-2-1-3-13(14)17-9-11(8-12)15(10)18;/h1-4,7-9H,5-6H2;1H
